datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12](=[C:13]([H:16])[H:17])([H:14])[H:15]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[H:14])[H:5].[C:12](=[C:13]([H:16])[H:17])[H:15],103.931
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6](=[C:7]([H:20])[H:21])[H:19])=[C:8]([C:9]([H:22])([H:23])[H:24])[C:10]([H:25])([H:26])[H:27])([H:17])[H:18])([H:15])[H:16])[H:14])[H:13])([H:11])[H:12]>>[C:0](=[C:1]([C:2]1([H:14])[C:3]([H:15])([H:16])[C:4]([H:17])([H:18])[C:5]([C:6](=[C:7]([H:20])[H:21])[H:19])[C:8]1([C:9]([H:22])([H:23])[H:24])[C:10]([H:25])([H:26])[H:27])[H:13])([H:11])[H:12],91.5459
[C:0]([C:1]([H:5])([H:6])[H:7])([H:2])([H:3])[H:4].[C:8]([C:9]([C:10]([H:17])([H:18])[H:19])([C:11]([O:12])([H:20])[H:21])[H:16])([H:13])([H:14])[H:15]>>[C:0]([C:1]([H:5])([H:6])[H:7])([H:3])[H:4].[H:2][O:12][C:11]([C:9]([C:8]([H:13])([H:14])[H:15])([C:10]([H:17])([H:18])[H:19])[H:16])([H:20])[H:21],9.79056
[C-:0]#[O+:1].[O:2][C:3]([O:4][O:5][H:8])([H:6])[H:7]>>[C:0](=[O:1])[O:2][C:3]([O:4][O:5][H:8])([H:6])[H:7],23.380192
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:25])([H:26])[H:27])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])[H:12])([H:9])([H:10])[H:11].[O:28][O:29]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:25])([H:26])[H:27])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])[H:12])([H:10])[H:11].[H:9][O:28][O:29],0.0
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:15])([H:16])[H:17])[c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])[H:14])[H:13])([H:11])[H:12].[C:23](=[C:24]([C:25]([C:26](=[C:27]([H:33])[H:34])[H:32])[H:31])[H:30])([H:28])[H:29]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])[c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])([H:14])[C:25]([C:24](=[C:23]([H:28])[H:29])[H:30])([C:26](=[C:27]([H:33])[H:34])[H:32])[H:31])[H:13])([H:11])[H:12],68.5758
[C:0]([S:1][H:5])([H:2])([H:3])[H:4].[C:6](=[S:7])[H:8]>>[C:0]([S:1][H:5])([H:3])[H:4].[H:2][C:6](=[S:7])[H:8],52.7184
[C:0](#[C:1][S:2][H:4])[H:3].[C:5](=[C:6][C:7](=[S:8])[H:11])([H:9])[H:10]>>[C:0](#[C:1][S:2])[H:3].[H:4][C:6](=[C:5]([H:9])[H:10])[C:7](=[S:8])[H:11],24.6856
[C:0](=[C:1]([H:4])[H:5])([H:2])[H:3].[C:6]([C:7]([C:8]([H:13])([H:14])[H:15])[H:12])([H:9])([H:10])[H:11]>>[C:0](=[C:1]([H:4])[H:5])[H:3].[H:2][C:7]([C:6]([H:9])([H:10])[H:11])([C:8]([H:13])([H:14])[H:15])[H:12],58.9944
[C:0](=[C:1]([C:2]([H:11])([H:12])[H:13])[c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])([H:9])[H:10].[C:19]([C:20]([c:21]1[c:22]([H:31])[c:23]([H:32])[c:24]([H:33])[c:25]([H:34])[c:26]1[H:35])[H:30])([H:27])([H:28])[H:29]>>[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])[c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])([H:9])([H:10])[C:20]([C:19]([H:27])([H:28])[H:29])([c:21]1[c:22]([H:31])[c:23]([H:32])[c:24]([H:33])[c:25]([H:34])[c:26]1[H:35])[H:30],30.8779
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])=[C:4]([C:5]([H:11])([H:12])[H:13])[H:10])[H:6].[C:14]([C:15](=[C:16]([H:20])[H:21])[H:19])([H:17])[H:18]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([C:5]([H:11])([H:12])[H:13])[H:10])[C:14]([C:15](=[C:16]([H:20])[H:21])[H:19])([H:17])[H:18])[H:6],58.1158
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([S:4][H:10])[H:6])[H:5].[C:11](=[C:12]([H:14])[H:15])[H:13]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[S:4][H:10])[H:5].[H:6][C:11](=[C:12]([H:14])[H:15])[H:13],-14.2256
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])=[C:5]([C:6]([H:14])([H:15])[H:16])[H:13])[H:9])([H:7])[H:8].[C:17]([c:18]1[c:19]([H:26])[c:20]([H:27])[c:21]([H:28])[c:22]([H:29])[c:23]1[H:30])([H:24])[H:25]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])[C:5]([C:6]([H:14])([H:15])[H:16])([H:13])[C:17]([c:18]1[c:19]([H:26])[c:20]([H:27])[c:21]([H:28])[c:22]([H:29])[c:23]1[H:30])([H:24])[H:25])[H:9])([H:7])[H:8],27.8236
[C:0]([C:1]([C:2]1([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]1([H:22])[H:23])([H:11])[H:12])([H:8])([H:9])[H:10].[O:24][H:25]>>[C:0]([C:1]([C:2]1([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([H:19])[C:6]([H:20])([H:21])[C:7]1([H:22])[H:23])([H:11])[H:12])([H:8])([H:9])[H:10].[H:18][O:24][H:25],-4.234208
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6]([C:7]([C:8]([H:15])([H:16])[H:17])=[C:9]([C:10]([H:18])([H:19])[H:20])[C:11]([H:21])([H:22])[H:23])([H:12])([H:13])[H:14]>>[C:0](#[C:1][C:2]([H:4])([H:5])[C:7]([C:6]([H:12])([H:13])[H:14])([C:8]([H:15])([H:16])[H:17])[C:9]([C:10]([H:18])([H:19])[H:20])[C:11]([H:21])([H:22])[H:23])[H:3],46.275
[C:0](#[C:1][C:2]#[C:3][H:5])[H:4].[C:6](=[C:7]([C:8]([C:9](=[C:10]([H:16])[H:17])[H:15])[H:14])[H:13])([H:11])[H:12]>>[C:0](=[C:1]([C:2]#[C:3][H:5])[C:8]([C:7](=[C:6]([H:11])[H:12])[H:13])([C:9](=[C:10]([H:16])[H:17])[H:15])[H:14])[H:4],80.1654
